US07625880B2
A solution of phenylphosphonic dichloride (29 mL, 200 mmol) dissolved in anhydrous THF (600 mL) was cooled to −78° C. and mechanically stirred under an atmosphere of dry nitrogen. Vinylmagnesium bromide (1 M in THF, 500 mL) was slowly added so that the temperature of the reaction mixture never exceeded −70° C. The addition took 2 hours. After an additional 1 hour of stirring at −78° C., the cold reaction mixture was poured directly into cold, saturated NH4Cl (1 L). The mixture was extracted twice with CH2Cl2 and the combined organic phase was washed with 1 M NaOH, brine, and then dried over Mg2SO4. Filtration and solvent evaporation provided divinyl-phenyl-phosphine oxide (26.8 g, 75%) as a viscous yellow oil that solidified upon standing. 1H NMR (400 MHz, DMSO-d6); δ 7.8-7.4 (m, 5H), 6.7 (m, 2H), 6.4-6.1 (m, 4H). 31P NMR (DMSO-d6); δ 17.0 (s).

reactant | phenylphosphonic dichloride | 200 mmol, 29 mL | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | Vinylmagnesium bromide | 1 M, 500 mL | C(=C)[Mg]Br
reactant | NH4Cl | 1 L | [NH4+].[Cl-]
reactant | THF | 600 mL | C1CCOC1 | C4H8O
product | divinyl-phenyl-phosphine oxide | 26.8 g, 75% | C(=C)P(C1=CC=CC=C1)(C=C)=O | C10H11OP
